US07777047B2
N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide
To a mixture of N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide (560 mg) and 1,2-dichloroethane (15 mL) was added morpholine (170 mg) at room temperature, and the reaction mixture was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (590 mg) was added at room temperature, and the mixture was further stirred at room temperature for 15 hr. Morpholine (170 mg) was added to the reaction mixture at room temperature, and the mixture was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (590 mg) was added at room temperature, and the mixture was further stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-2:1, volume ratio) to give the title compound (400 mg, yield 63%) as colorless crystals.

reactant | N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 560 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)C=O | C25H22F3N3O5S3
reactant | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
reactant | morpholine | 170 mg | N1CCOCC1 | C4H9NO
reactant | Sodium triacetoxyborohydride | 590 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Morpholine | 170 mg | N1CCOCC1 | C4H9NO
reactant | Sodium triacetoxyborohydride | 590 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Water | O | H2O
product | N-[2-(benzylthio)-3-morpholinopropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 400 mg, yield 63% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)CN1CCOCC1 | C29H31F3N4O5S3
